* ============================================================
* Buck pre-regulator -- 6-40 V in, 5 V out
* Power chain stage 4, spec section 6
* ============================================================
* Everything on the board hangs off this stage, and the two
* components whose values are actually a design decision are the
* inductor and the output capacitor. This block sizes both by
* measuring what they do rather than by trusting a formula.
*
* Switching at 400 kHz. That choice is itself a constraint from
* research memo 06: CISPR 25's conducted-emissions band starts at
* 150 kHz, so a fundamental below it would put the switching
* harmonics straight into the measured band from the first
* harmonic upward. 400 kHz puts the fundamental above the band
* start with margin, and keeps the inductor small.
*
* The design is run OPEN LOOP at a fixed duty cycle. A closed
* loop would settle to 5 V by definition and tell us nothing
* about the filter; open loop at D = Vout/Vin puts the same 5 V
* on the output and leaves the ripple visible.
*
* Two line conditions, because ripple is worst at high line:
*     13.5 V nominal  -> D = 0.370
*     40.0 V clamped  -> D = 0.125   (worst case)
*
* At fixed frequency the inductor's ripple current is
*     dIL = (Vin - Vout) * D * T / L
* which grows as Vin rises even though D falls. 40 V is the top
* of the input range the transient clamp guarantees, so that is
* the case the inductor has to be sized for.
*
* L = 33 uH, Cout = 47 uF with 10 mOhm ESR, load 1 A.
*
* Both cases start in steady state, via ic= on the inductors and
* .ic on the outputs. That is deliberate. The output filter's own
* natural frequency is 1/(2*pi*sqrt(LC)) = 4 kHz with a Q near 6,
* so started from zero it rings for milliseconds before settling
* and a 400 us run would measure the ring, not the ripple. Ripple
* is a steady-state property; start there and measure it directly.
* ============================================================

.model NSW SW(Ron=25m Roff=1e9 Vt=2.5 Vh=0.2)
* Body diodes. A real power MOSFET has one and a voltage-controlled
* switch does not, and the difference is not cosmetic: during the
* dead time both switches are off, and without a body diode the
* inductor current has no path at all. The first version of this
* netlist omitted them and the converter never started -- the
* inductor was force-reset to zero every cycle through the switch
* model's 1 GOhm off-resistance, so the output sat at 0.27 V.
.model DBODY D(Is=1e-12 N=1.05 Rs=10m)

* ---- case A: 13.5 V nominal, D = 0.370, ton = 925 ns ----
Vin1  in1 0 DC 13.5
Vg1   g1  0 PULSE(0 5 0     1n 1n 925n  2.5u)
* Complementary drive with 20 ns of dead time each edge, so the
* two ideal switches never conduct at once.
Vg1n  g1n 0 PULSE(0 5 945n  1n 1n 1.515u 2.5u)
Shi1  in1 sw1 g1  0 NSW
Slo1  sw1 0   g1n 0 NSW
Dlo1  0   sw1 DBODY
Dhi1  sw1 in1 DBODY
VsL1  sw1 la1 0
L1    la1 o1  33u ic=1
C1    o1  e1  47u
Re1   e1  0   10m
Rl1   o1  0   5

* ---- case B: 40 V clamped high line, D = 0.125, ton = 312.5 ns ----
Vin2  in2 0 DC 40
Vg2   g2  0 PULSE(0 5 0      1n 1n 312.5n 2.5u)
Vg2n  g2n 0 PULSE(0 5 332.5n 1n 1n 2.1275u 2.5u)
Shi2  in2 sw2 g2  0 NSW
Slo2  sw2 0   g2n 0 NSW
Dlo2  0   sw2 DBODY
Dhi2  sw2 in2 DBODY
VsL2  sw2 la2 0
L2    la2 o2  33u ic=1
C2    o2  e2  47u
Re2   e2  0   10m
Rl2   o2  0   5

* Start both converters in steady state -- see the header.
.ic v(o1)=5 v(o2)=5

.control
* 400 us is 160 switching cycles -- long enough for the output to
* settle so the last cycles show steady-state ripple, not startup.
tran 20n 400u uic
wrdata buck_prereg.dat v(o1) i(VsL1) v(o2) i(VsL2)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE -- the switch model
* ------------------------------------------------------------
* The switches here are ideal with a fixed 25 mOhm on-resistance.
* That is close enough for ripple, which is set by L, C and the
* duty cycle, not by the switch.
*
* It is NOT close enough for efficiency or thermal work: real
* switching loss comes from the overlap of voltage and current
* during transitions, gate charge, and the body diode's reverse
* recovery, none of which this model has. An efficiency number
* taken from this netlist would be optimistic and meaningless.
* Use the controller's datasheet curves for that.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- tolerance
* ------------------------------------------------------------
* The binding parameter is L (the power inductor); it sets the
* ripple checks directly and everything else in this block has wide
* margin. +/-20% is the standard tolerance bin for this class of
* part. Worst case for ripple is L LOW, since ripple is inversely
* proportional to L. Re-ran at L1=L2=26.4 uH (-20%) in a scratch
* copy, not this file:
*
*     nominal (33 uH)   worst-case ripple (40 V line) = 34.84% of 1 A load
*     L -20% (26.4 uH)  worst-case ripple (40 V line) = 44.92% of 1 A load
*
* Flips the "under ~40% of full load" check (run_sim.py's own
* comment on that check, and the 2026-09-18 review's F9, both note
* this 40% figure is industry convention rather than a cited spec --
* still, 44.9% at a perfectly standard inductor tolerance is a real
* margin failure against it, not a manufactured one).
*
* THE DESIGN IS INADEQUATE at this corner, not the target: a 30-40%
* ripple-ratio convention is common enough (see run_sim.py) that
* designing to only just clear it at NOMINAL component values, with
* no margin for a standard +/-20% inductor tolerance, is the mistake
* -- the same shape of error load_dump.cir's Us*/Ri finding and this
* review's F3 catalogue elsewhere. The fix is straightforward and
* not applied here: raise L to a value that clears 40% even at its
* own -20% corner, which by the same linear scaling means roughly
* L >= 36 uH nominal (33 uH * 34.84/40 / 0.8); the next standard
* value up, 39 uH or 47 uH, would do it with real margin (47 uH's
* own -20% corner would sit at about 30.6%). Not changed here
* because sim/draw_schematics.py -- out of scope for this pass and
* being edited concurrently -- draws this inductor's value on the
* schematic, and changing it here without updating that picture
* would create the exact netlist/schematic drift the project's own
* README calls out as the thing this simulation harness exists to
* prevent. Whoever owns that file next should make this change in
* both places together.
* ------------------------------------------------------------
*
* ------------------------------------------------------------
* RESULT NOTE -- temperature (Ron, and the inductor saturation gap)
* ------------------------------------------------------------
* Two candidate mechanisms, per the task brief: switch Ron and
* inductor saturation current. The SW model used for both switches
* is confirmed NOT to respond to `option temp=` at all (checked
* directly: identical current at -40 C and 125 C for a test SW
* device) -- ngspice's behavioural switch has no temperature
* coefficient, so Ron has to be varied explicitly, same as the L
* tolerance corner above. Re-ran the full open-loop netlist (both
* line cases, 400 us, tail-settled) at Ron=50 mOhm (2x nominal, the
* aggressive end of the task brief's own +50/+100% class figure for
* 25 C->125 C) in a scratch copy, not this file:
*
*             Ron=25m (nominal)   Ron=50m (+100%, hot)
*   vo1 (13.5 V in)   4.9256 V         4.8985 V   (-27 mV)
*   vo2 (40 V in)     4.9449 V         4.9176 V   (-27 mV)
*   ripple1 (A)       0.2558           0.2579     (+0.8%)
*   ripple2 (A)       0.3484           0.3507     (+0.7%)
*   output ripple mV  13.9 / 21.4      10.5 / 17.2  (improves slightly)
*
* What flips: nothing. The DC-accuracy checks have 150 mV of
* tolerance and Ron's effect is 27 mV even at a doubled, worst-case
* Ron -- this is an open-loop fixed-duty test, so Ron only adds a
* static IR drop, it does not touch the ripple mechanism (L, C, duty
* cycle), which barely moves. A real closed-loop regulator would
* absorb this drop entirely; it is visible here only because the
* test is deliberately open loop.
*
* Inductor saturation current is the other named mechanism, and it
* is a real gap this block cannot currently answer: no Isat has been
* modelled or checked anywhere in this netlist -- there is no part
* number, so there is no datasheet curve to apply a temperature
* corner to. Worst-case peak inductor current from the numbers above
* is Iload + ripple/2 ~= 1 + 0.35/2 ~= 1.18 A at 40 V line, and that
* figure does not move meaningfully with Ron (see ripple2 above).
* Ferrite-core Isat commonly falls 20-30% from 25 C to 125 C
* (INFERRED, class-typical for MnZn power ferrites; powder/iron-alloy
* cores derate less). Whether 1.18 A clears a real 33 uH part's Isat
* at 125 C is unanswerable until a part is chosen -- flagged here so
* it is checked THEN, not assumed clear because ripple “only” looked
* like 35-45% of load.
* ------------------------------------------------------------
